US07851411B2
(2Z)-3-Amino-2-cyano-4-ethyl-2-hexene acid
3 g (15 mmol) of (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoyl chloride dissolved in acetonitrile were added dropwise to a solution of 2.6 g (30 mmol) NaHCO3 in water. The solution was stirred at 25° C. for 30 min, then concentrated to dryness and the residue was taken up in methanol. The precipitate was seperated and the filtrate concencentrated to dryness again. The residue was dissolved in water and saturated KHSO4-solution was added. Filtration of the precipitate gave 2 g of the title compound (73% of theory) as a colorless solid (m. p. 150° C.)

reactant | (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoyl chloride | 15 mmol, 3 g | N\C(=C(/C(=O)Cl)\C#N)\C(CC)CC | C9H13ClN2O
reactant | NaHCO3 | 30 mmol, 2.6 g | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | (2Z)-3-Amino-2-cyano-4-ethyl-2-hexene | 2 g, 73% | N\C(=C(\C)/C#N)\C(CC)CC | C9H16N2
